US07763639B2
4-[2-CHLORO-3-(METHYLSULFONYL)PHENYL]-1-PROPYL-1,2,3,6-TETRAHYDROPYRIDINE
To neat 4-[2-chloro-3-(methylsulfonyl)phenyl]-pyridine (1.0 g, 3.8 mmol) was added 1-iodopropane (5 ml) and the resulting mixture was heated at 100° C. for 2 h. Excess 1-iodopropane was evaporated under reduced pressure and ethanol (60 ml) was added. The mixture was cooled to −20° C. and sodium borohydride (1.3 g, 38 mmol) was added in portions. The resulting mixture was stirred for 1 h, after which aqueous sodium carbonate (10%, 50 ml) was added. The aqueous phase was extracted with ethylacetate (3×100 ml) and the combined organic phases was dried (MgSO4), filtered and evaporated to dryness. The residue was purified by flash column chromatography (ethylacetate/methanol, 1:1) to give the title compound (0.5 g). MS m/z (rel. intensity, 70 eV) 313 (M+, 18), 286 (39), 285 (17), 284 (bp), 128 (12).

reactant | 4-[2-chloro-3-(methylsulfonyl)phenyl]-pyridine | 3.8 mmol, 1.0 g | ClC1=C(C=CC=C1S(=O)(=O)C)C1=CC=NC=C1 | C12H10ClNO2S
reactant | 1-iodopropane | 5 ml | ICCC | C3H7I
reactant | sodium borohydride | 38 mmol, 1.3 g | [BH4-].[Na+]
solvent | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 4-[2-CHLORO-3-(METHYLSULFONYL)PHENYL]-1-PROPYL-1,2,3,6-TETRAHYDROPYRIDINE | 0.5 g | ClC1=C(C=CC=C1S(=O)(=O)C)C=1CCN(CC1)CCC | C15H20ClNO2S
